US04221806
12 ml of ethyl chloroformate are added dropwise to a solution of 25 g of 3-aminothiophenol in 150 ml of ethyl acetate at 50°, under gentle reflux. 50 ml of ethyl acetate are added and the reaction mixture is boiled under reflux for 5 minutes, cooled to 40° and filtered with suction. The filtrate is evaporated to dryness and the oily evaporation residue is chromatographed on silica gel using toluene as the solvent. 3-Ethoxycarbonylaminothiophenol is obtained by evaporating the eluate. 10 g of this product are mixed with 8 g of ethyl acetoacetate and the mixture is added dropwise to 153 g of polyphosphoric acid at 90°. The mixture is warmed for 2 hours at an internal temperature of 95° and the hot reaction mixture is poured into 2 liters of ice-water, the resulting mixture is stirred for 30 minutes and the precipitate which has separated out is filtered off with suction. 2-Methyl-7-ethoxycarbonylamino-4-oxo-4H- 1-benzothiopyran is thus obtained and after recrystallisation from 70 ml of ethanol this melts at 216°-218°. 15.6 g of this product are refluxed with 28.7 ml of sulfuric acid and 52 ml of acetic acid for 5 hours. The reaction mixture is poured into 500 ml of ice-water and the resulting mixture is neutralised with sodium hydroxide solution. 2-Methyl-7-amino-4-oxo-4H-1-benzothiopyran with a melting point of 165°-169° is obtained and this can be purified via the hydrochloride and then melts at 172°-175°.

reactant | ethyl chloroformate | 12 ml | ClC(=O)OCC | C3H5ClO2
reactant | 3-aminothiophenol | 25 g | NC=1C=C(C=CC1)S | C6H7NS
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 3-Ethoxycarbonylaminothiophenol | C(C)OC(=O)NC=1C=C(C=CC1)S | C9H11NO2S
